* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=8.54541979614e-10
.param C2=5.49775868915e-10
.param Ce=1.20966728852e-12
.param Ch=1.26129725771e-10
.param Csh=1.08680493953e-10
.param L1=1.11245313091e-07
.param Lh=4.14195321468e-08
.param Lp=1.01870488903e-07
.param Rp=15.7623997969
.param Vsrc_amp=496.626360002
.param ne=7.57768877998e+14
.param nu_m=66503616.5561

* Sources
Vsrc src 0 SIN(0 496.626360002 13560000 0 0 0)

* Circuit
L1 src electrode {L1}
C1 electrode 0 {C1}

* Optional load
* load model: electrode_stray
.subckt load_model p n
Rleak p n 1e+12
Celectrode p n 1.20966728852e-12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
