* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=7.07588757334e-11
.param C2=6.07281666928e-11
.param Ce=9.75251913339e-12
.param Ch=1.77261774693e-09
.param Csh=1.49317501307e-11
.param L1=6.83045135699e-07
.param Lh=2.95180861399e-07
.param Lp=2.15143375501e-08
.param Rp=13.8636580967
.param Vsrc_amp=662.658484181
.param ne=9.72248931924e+14
.param nu_m=192371560.453

* Sources
Vsrc src 0 SIN(0 662.658484181 13560000 0 0 0)

* Circuit
L1 src electrode {L1}
C1 electrode 0 {C1}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 13.8636580967
Lbulk nb ns 2.15143375501e-08
Csh ns n 1.49317501307e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
