* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=5.63995342573e-10
.param C2=1.71031572253e-10
.param Ce=1.47620325683e-12
.param Ch=7.2062504702e-11
.param Csh=1.0235102235e-10
.param L1=2.95149602739e-08
.param Lh=3.23510063019e-06
.param Lp=1.05716635039e-07
.param Rp=12.024721009
.param Vsrc_amp=532.540231241
.param ne=6.55284286384e+14
.param nu_m=133878729.386

* Sources
Vsrc src 0 SIN(0 532.540231241 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 12.024721009
Lbulk nb ns 1.05716635039e-07
Csh ns n 1.0235102235e-10
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
