* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=2.07028817121e-11
.param C2=1.11722616677e-10
.param Ce=2.30394539747e-12
.param Ch=1.11406079038e-11
.param Csh=1.27840261774e-10
.param L1=1.21033632235e-07
.param Lh=9.80423914073e-08
.param Lp=7.8551238953e-08
.param Rp=4.09830870074
.param Vsrc_amp=494.275946258
.param ne=4.54680350913e+14
.param nu_m=83182367.547

* Sources
Vsrc src 0 SIN(0 494.275946258 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: electrode_stray
.subckt load_model p n
Rleak p n 1e+12
Celectrode p n 2.30394539747e-12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
