* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=2e-10
.param C2=2e-10
.param Ce=5e-11
.param Ch=1e-10
.param Csh=5e-11
.param L1=8e-07
.param Lh=3e-07
.param Lp=2e-07
.param Rp=20
.param Vsrc_amp=500
.param ne=5.0e14
.param nu_m=1.0e8

* Sources
Vsrc src 0 SIN(0 500 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 22.1398363712
Lbulk nb ns 2.21398363712e-07
Csh ns n 5e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
